US08022075B2
5-[4-(6-Bromo-1,3-benzothiazol-2-yl)phenyl]-1,3-oxazole (39)
2 Amino-5-bromobenzenethiol (102 mg) and 4-(1,3-oxazol-5-yl)benzaldehyde (87 mg) were dissolved in dimethylsulfoxide (1 mL), followed by stirring at 160° C. for 10 minutes. Water (10 mL) was added to the reaction mixture. The precipitated matter was recovered through filtration, and washed with methanol, to thereby yield the title compound (105 mg).

reactant | Amino-5-bromobenzenethiol | 102 mg | NC1=C(C=C(C=C1)Br)S | C6H6BrNS
reactant | 4-(1,3-oxazol-5-yl)benzaldehyde | 87 mg | O1C=NC=C1C1=CC=C(C=O)C=C1 | C10H7NO2
reactant | Water | 10 mL | O | H2O
solvent | dimethylsulfoxide | 1 mL | CS(=O)C | C2H6OS
product | 5-[4-(6-Bromo-1,3-benzothiazol-2-yl)phenyl]-1,3-oxazole | 105 mg | BrC1=CC2=C(N=C(S2)C2=CC=C(C=C2)C2=CN=CO2)C=C1 | C16H9BrN2OS
